US08198466B2
Preparation of 6-Methoxy-2-methyl-3-(3,4,5-trimethoxybenzoyl)-1H-indole
A mixture of 2-iodo-5-methoxy-N-trifloroacetylaniline (Flynn et al, J. Med. Chem., 2002, 45(12), 2670; 0.508 g; 1.5 mmol), Cl2Pd(PPh3)2 (0.102 g; 0.145 mmol); CuI (0.016 g; 0.085 mmol), anhydrous N,N-diisopropyl ethylamine (1 ml) in anhydrous DMF (10 ml) was cooled to −40° C., degassed under reduced pressure and saturated with dry N2. The propyne gas (0.53 g; 13.3 mmol) was added to it at −40° C. The reaction flask was sealed with septum and allowed to warm up to room temperature and stirred for 3 h. After removal of excess of propyne under reduced pressure 3,4,5-trimethoxyphenyl iodide (0.5 g; 1.7 mmol) was added to it, followed by dry K2CO3 (0.621 g; 4.5 mmol). The resulting mixture was degassed in vacuo and saturated with CO gas and stirred for 3 h under CO balloon pressure. The mixture was diluted to 50 ml with diethyl ether, washed with H2O (2×15 ml), brine (10 ml), dried over anhydrous MgSO4, filtered and filtrate evaporated to dryness under reduced pressure. The residue was purified by flash column chromatography (SiO2; CH2Cl2) to give pure title compound (0.295 g; 55%) as a yellow crystals:

reactant | 2-iodo-5-methoxy-N-trifloroacetylaniline | 1.5 mmol, 0.508 g | IC1=C(NC(C(F)(F)F)=O)C=C(C=C1)OC | C9H7F3INO2
reactant | N,N-diisopropyl ethylamine | 1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propyne | 13.3 mmol, 0.53 g | C#CC | C3H4
reactant | 3,4,5-trimethoxyphenyl iodide | 1.7 mmol, 0.5 g | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | K2CO3 | 4.5 mmol, 0.621 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 0.085 mmol, 0.016 g | [Cu]I
product | 6-Methoxy-2-methyl-3-(3,4,5-trimethoxybenzoyl)-1H-indole | 0.295 g, 55% | COC1=CC=C2C(=C(NC2=C1)C)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C20H21NO5
